US04035369
A mixture of 4 parts of 1-(4-chlorobutyl)-1,3-dihydro-2H-benzimidazol-2-one, 4 parts of (4-fluorophenyl) (4-piperidinyl) methanone hydrochloride, 10 parts of sodium carbonate, 0.2 parts of potassium iodide and 80 parts of 4-methyl-2-pentanone is stirred and refluxed overnight. After cooling, water is added and the layers are separated. The organic phase is dried, filtered and evaporated. The solid residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 10% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from 4-methyl-2-pentanone, yielding 2 parts (30%) of 1-{4-[4-(4-fluorobenzoyl)-1-piperidinyl]butyl} -1,3-dihydro-2H-benzimidazol-2-one; mp. 176.5° C.

reactant | 1-(4-chlorobutyl)-1,3-dihydro-2H-benzimidazol-2-one | ClCCCCN1C(NC2=C1C=CC=C2)=O | C11H13ClN2O
reactant | (4-fluorophenyl) (4-piperidinyl) methanone hydrochloride | Cl.FC1=CC=C(C=C1)C(=O)C1CCNCC1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 1-{4-[4-(4-fluorobenzoyl)-1-piperidinyl]butyl} -1,3-dihydro-2H-benzimidazol-2-one | 30% | FC1=CC=C(C(=O)C2CCN(CC2)CCCCN2C(NC3=C2C=CC=C3)=O)C=C1 | C23H26FN3O2
